US04973600
A suspension of 104 g of 3,4-dichloro-1,2-benzenediol, 240 g of potassium carbonate and 354 g of methyl iodide in 2 litters of acetone is refluxed for 2 hours. The reaction mixture is filtered and washed with acetone. The filtrate and the washings are combined and evaporated to remove solvent. Water is added to the residue and the mixture is extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. The residue is distilled under reduced pressure to give 110.5 g of 1,2-dichloro-3,4-dimethoxybenzene.

reactant | 3,4-dichloro-1,2-benzenediol | 104 g | ClC1=C(C(=CC=C1Cl)O)O | C6H4Cl2O2
reactant | potassium carbonate | 240 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 354 g | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 1,2-dichloro-3,4-dimethoxybenzene | 110.5 g | ClC1=C(C(=C(C=C1)OC)OC)Cl | C8H8Cl2O2
